US06121285
(3R, 4R)-1-Benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)-4-methylpyrrolidine
1-[(3S,4R)-1-Benzyloxycarbonyl-4-methyl-3-pyrrolidinyl]cyclopropanecarboxylic acid (1.20 g, 3.66 mmol) was dissolved in tert-butyl alcohol (50 ml), and the solution was mixed with diphenylphosphoryl azide (0.946 ml, 4.39 mmol) and triethylamine (1.02 ml, 7.32 mmol) and heated under reflux for 19 hours. After completing the reaction, the solvent was evaporated and the resulting residue was purified by silica gel column chromatography (silica gel, 120 ml; ethyl acetate:hexane=1:2), to thereby obtain 0.793 g (58%) of the title compound.

reactant | 1-[(3S,4R)-1-Benzyloxycarbonyl-4-methyl-3-pyrrolidinyl]cyclopropanecarboxylic acid | 3.66 mmol, 1.20 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C)C1(CC1)C(=O)O | C17H21NO4
reactant | diphenylphosphoryl azide | 4.39 mmol, 0.946 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 7.32 mmol, 1.02 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | (3R, 4R)-1-Benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)-4-methylpyrrolidine | 0.793 g, 58% | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C)C1(CC1)NC(=O)OC(C)(C)C | C21H30N2O4
